US04476308
Preparation of (R/S)-cis-N-[2-(2,6-dimethyl-1-piperidinyl)ethyl]-2-(3-hydroxy-2-oxo-1-pyrrolidinyl)acetamide
4.5 g of ethyl (R/S)-2-(3-hydroxy-2-oxo-1-pyrrolidinyl)acetate are heated to 100° for 3.5 hours under nitrogen with 7.1 g of cis-2-(2,6-dimethyl-1-piperidinyl)ethylamine. Thereafter, diethyl ether is added thereto, the mixture is stirred, filtered and the filter residue (6.5 g) is chromatographed on 30 g of silica gel (granular size 0.2-0.5 mm). The (R/S)-cis-N-[2-(2,6-dimethyl-1-piperidinyl)ethyl]-2-(3-hydroxy-2-oxo-1-pyrrolidinyl)acetamide which is eluted with methylene chloride and methanol has a melting point of 131°-132° after recrystallization from ethyl acetate.

reactant | ethyl (R/S)-2-(3-hydroxy-2-oxo-1-pyrrolidinyl)acetate | 4.5 g | OC1C(N(CC1)CC(=O)OCC)=O | C8H13NO4
reactant | cis-2-(2,6-dimethyl-1-piperidinyl)ethylamine | 7.1 g | C[C@@H]1N([C@@H](CCC1)C)CCN | C9H20N2
solvent | diethyl ether | C(C)OCC | C4H10O
product | (R/S)-cis-N-[2-(2,6-dimethyl-1-piperidinyl)ethyl]-2-(3-hydroxy-2-oxo-1-pyrrolidinyl)acetamide | C[C@@H]1N([C@@H](CCC1)C)CCNC(CN1C(C(CC1)O)=O)=O | C15H27N3O3
